### PR TITLE
refactor LieTrace with BlockTriangular API

### PR DESCRIPTION
**Pull request by or4nge19**
removed upperTriangular API to leverage BlockTriangular (recommended by Eric Wieser)

### CODE REVIEW

File: PhysLean/Mathematics/DataStructures/Matrix/LieTrace.lean [hunk 1]
```diff
@@ -13,122 +14,55 @@ import PhysLean.Mathematics.SchurTriangulation
...
+namespace Finset
+
+variable [RCLike 𝕂] [LinearOrder m]
+
+private lemma prod_exp_eq_exp_sum (s : Finset m) (f : m → 𝕂) :
+    ∏ i ∈ s, NormedSpace.exp 𝕂 (f i) = NormedSpace.exp 𝕂 (∑ i ∈ s, f i) := by
+  letI : CompleteSpace 𝕂 := by infer_instance
+  induction' s using Finset.induction with a s ha ih
+  · simp [NormedSpace.exp_zero]
+  · rw [Finset.prod_insert ha, Finset.sum_insert ha, NormedSpace.exp_add, ih]
```
Comment (eric-wieser) [inline PhysLean/Mathematics/DataStructures/Matrix/LieTrace.lean]: This is `NormedSpace.exp_sum`

File: PhysLean/Mathematics/DataStructures/Matrix/LieTrace.lean [hunk 2]
```diff
@@ -141,136 +75,123 @@ lemma matrix_tsum_apply
...
+  apply Finset.sum_eq_single i
+  · intro j _ j_ne_i
+    cases lt_or_gt_of_ne j_ne_i with
+    | inl h => rw [hA h, zero_mul] -- j < i
+    | inr h => rw [hB h, mul_zero] -- i < j
+  · intro; simp_all only [Finset.mem_univ, not_true_eq_false]
+
+/-- Powers of block triangular matrices are block triangular. -/
+lemma blockTriangular_pow {A : Matrix m m 𝕂} (hA : BlockTriangular A id) (k : ℕ) :
+    BlockTriangular (A ^ k) id := by
```
Comment (eric-wieser) [inline PhysLean/Mathematics/DataStructures/Matrix/LieTrace.lean]: You should call this `BlockTriangular.pow` to make dot notation work like `mul`.

File: PhysLean/Mathematics/DataStructures/Matrix/LieTrace.lean [hunk 3]
```diff
@@ -141,136 +75,123 @@ lemma matrix_tsum_apply
...
-    (NormedSpace.exp 𝕂 A).det = NormedSpace.exp 𝕂 A.trace := by
-  have h_exp_upper : IsUpperTriangular (NormedSpace.exp 𝕂 A) :=
-    isUpperTriangular_exp_of_isUpperTriangular hA
-  letI : LinearOrder m := by infer_instance
-  rw [det_of_isUpperTriangular h_exp_upper];
-  have h_diag_exp : (NormedSpace.exp 𝕂 A).diag = fun i => NormedSpace.exp 𝕂 (A i i) :=
-    diag_exp_of_isUpperTriangular hA
-  erw [← Finset.prod_exp_eq_exp_sum Finset.univ]
-  exact congrArg Finset.univ.prod h_diag_exp
+  have h_det_U : det (U : Matrix m m 𝕂) * det (star (U : Matrix m m 𝕂)) = (1 : 𝕂) := by
```
Comment (eric-wieser) [inline PhysLean/Mathematics/DataStructures/Matrix/LieTrace.lean]: `convert Matrix.det_conj U A` should shorten this further.

**Review by jstoobysmith — APPROVED** [review]
Approved - feel free to merge if you are ready. Happy to look at it again if you are not ready yet.
